US06090836
Step B: Preparation of 4-cyclopropylhydroxyimino-2-(n-propyl)resorcinol
A solution of 4-cyclopropylcarbonyl-2-(n-propyl)resorcinol (1.0 g, 4.54 mmole) in methanol (10 mL) was treated with hydroxylamine.HCl (1.58g, 22.7 mmole) and sodium acetate (1.86g, 22.7 mmole) and the mixture refluxed for 7 hours. The cooled mixture was poured into water and extracted 3× with ethyl acetate. The combined extracts were washed with water (2×), 10% sodium bicarbonate, brine, dried over magnesium sulfate and concentrated in vacuo to give a solid. The crude product was chromatographed on silica gel eluting with methylene chloride followed by methanol:methylene chloride (5:95) to afford the title compound. NMR (CDCl3); δ 0.89 (m, 2H); 0.94 (t, 3H); 1.10 (m, 2H); 1.76 (m, 1H); 2.61 (t, 2H); 6.35 (d, 1H); 7.41 (d, 1H).

reactant | 4-cyclopropylcarbonyl-2-(n-propyl)resorcinol | 4.54 mmole, 1.0 g | C1(CC1)C(=O)C1=C(C(=C(O)C=C1)CCC)O | C13H16O3
reactant | hydroxylamine | NO | H3NO
reactant | HCl | 22.7 mmole, 1.58g | Cl | ClH
reactant | sodium acetate | 22.7 mmole, 1.86g | C(C)(=O)[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | 4-cyclopropylhydroxyimino-2-(n-propyl)resorcinol | C1(CC1)C1C(=C(C(O)=CC1=NO)CCC)O | C12H17NO3
